US06566387B1
To a solution of N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)thio urea (3.4 g, 7.4 mmol) in methylene chloride (40 mL) at 0° C. was added triethylamine (3.1 mL, 22 mmol), DMAP (20 mg) and methane sulfonyl chloride (1.1 mL, 15 mmol). After 25 min, the reaction mixture was quenched with water (100 mL) and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3.3 g (100%) of N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)carbodiimide as a yellow solid which required no further purification. 1H NMR (400 MHz, DMSO) δ 7.7 (d, 1H), 7.45 (d, 1H), 7.4 (m, 4H), 7.15 (t, 1H).

reactant | N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)thio urea | 7.4 mmol, 3.4 g | C(#N)C1=CC(=C(C=C1)NC(=S)NC1=C(C=CC=C1)Br)O[Si](C)(C)C(C)(C)C | C20H24BrN3OSSi
reactant | triethylamine | 22 mmol, 3.1 mL | C(C)N(CC)CC | C6H15N
reactant | methane sulfonyl chloride | 15 mmol, 1.1 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 20 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-(4-cyano-2-t-butyldimethylsilanoxyphenyl)-N′-(2-bromophenyl)carbodiimide | 3.3 g, 100% | C(#N)C1=CC(=C(C=C1)N=C=NC1=C(C=CC=C1)Br)O[Si](C)(C)C(C)(C)C | C20H22BrN3OSi
